US06967196B1
4-chloro-N-(5-chloro-2-fluorophenyl)-N-[4-[(methylsulfonyl)amino]-1(R)-methylbutyl]-benzenesulfonamide was prepared analogous to 4-chloro-N-(2,5-dichlorophenyl)-N-[4-[[4 (methylsulfonyl)methyl]-1-piperidinyl]-1(R)-methylbutyl]benzenesulfonamide by reacting 4-chloro-N-(5-chloro-2-fluorophenyl)-N-[4-bromo-1(R)-methylbutyl]benzenesulfonamide with methanesulfonamide. Yield=89%; MS (ESI+), 483 (M+H)+.

reactant | 4-chloro-N-(5-chloro-2-fluorophenyl)-N-[4-bromo-1(R)-methylbutyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCBr)C)C1=C(C=CC(=C1)Cl)F | C17H17BrCl2FNO2S
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
product | 4-chloro-N-(5-chloro-2-fluorophenyl)-N-[4-[(methylsulfonyl)amino]-1(R)-methylbutyl]-benzenesulfonamide | Yield=89% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCNS(=O)(=O)C)C)C1=C(C=CC(=C1)Cl)F | C18H21Cl2FN2O4S2
